US08912186B2
By a procedure similar to that of example 1.59.2, starting from 3-(4-chlorophenyl)-1-(4-(trifluoromethyl)-phenyl)prop-2-en-1-one and dimethyl malonate, dimethyl 2-(1-(4-chlorophenyl)-3-oxo-3-(4-(trifluoromethyl)phenyl)-propyl)malonate was obtained as colourless solid.

reactant | 3-(4-chlorophenyl)-1-(4-(trifluoromethyl)-phenyl)prop-2-en-1-one | ClC1=CC=C(C=C1)C=CC(=O)C1=CC=C(C=C1)C(F)(F)F | C16H10ClF3O
reactant | dimethyl malonate | C(CC(=O)OC)(=O)OC | C5H8O4
product | dimethyl 2-(1-(4-chlorophenyl)-3-oxo-3-(4-(trifluoromethyl)phenyl)-propyl)malonate | ClC1=CC=C(C=C1)C(CC(C1=CC=C(C=C1)C(F)(F)F)=O)C(C(=O)OC)C(=O)OC | C21H18ClF3O5
